US06528510B1
2,2,2-Trifluoro-N-(5-isopropyl-2-nitro-phenyl)-acetamide
Trifluoroacetic anhydride (50 mL) was cooled to 0° C. and treated dropwise with 3-isopropyl-phenylamine (5 g, 37.03 mmol). To the resulting solution was added potassium nitrate (4.12 g, 101.11 mmol). After 1 hour, the reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was diluted carefully with ice water and extracted with EtOAc (4×100 mL). The organic layer was washed with saturated NaHCO3 solution and brine, dried (MgSO4), and concentrated. The crude product was used further without any purification. MS(APCI): 275 (M−H).

reactant | 3-isopropyl-phenylamine | 37.03 mmol, 5 g | C(C)(C)C=1C=C(C=CC1)N | C9H13N
reactant | potassium nitrate | 101.11 mmol, 4.12 g | [N+](=O)([O-])[O-].[K+]
reactant | Trifluoroacetic anhydride | 50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-(5-isopropyl-2-nitro-phenyl)-acetamide | FC(C(=O)NC1=C(C=CC(=C1)C(C)C)[N+](=O)[O-])(F)F | C11H11F3N2O3
